US07754741B2
Preparation of N-[2-(3-Chloro-5-trifluoromethyl-pyridin-2-yl) ethyl]-2-trifluoromethyl-nicotinamide
A solution of 204 mg (1 mmol) of 2-trifluormethyl nicotinic acid, 200 mg (0.9 mmol) of 2-(3-chloro-5-trifluormethyl-pyridin-2-yl)-ethylamine and 620 mg (1.3 mmol) of bromotripyrrolidinophosphonium hexafluorophosphate and 230 mg (1.8 mmol) N,N-Diisopropylethylamine in 8 ml methylene chloride is stirred for 20 h at room temperature.

reactant | 2-trifluormethyl nicotinic acid | 1 mmol, 204 mg | FC(C1=C(C(=O)O)C=CC=N1)(F)F | C7H4F3NO2
reactant | 2-(3-chloro-5-trifluormethyl-pyridin-2-yl)-ethylamine | 0.9 mmol, 200 mg | ClC=1C(=NC=C(C1)C(F)(F)F)CCN | C8H8ClF3N2
reactant | bromotripyrrolidinophosphonium hexafluorophosphate | 1.3 mmol, 620 mg | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | N,N-Diisopropylethylamine | 1.8 mmol, 230 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
product | N-[2-(3-Chloro-5-trifluoromethyl-pyridin-2-yl) ethyl]-2-trifluoromethyl-nicotinamide | ClC=1C(=NC=C(C1)C(F)(F)F)CCNC(C1=C(N=CC=C1)C(F)(F)F)=O | C15H10ClF6N3O
